* Disclaimer:
* THIS FILE IS PROVIDED “AS IS” AND WITH:
* (A)  NO WARRANTY OF ANY KIND, express, implied or statutory, including any implied warranties of merchantability or
* fitness for a particular purpose, which Mentor Graphics disclaims to the maximum extent permitted by applicable law; and
* (B)  NO INDEMNIFICATION FOR INFRINGEMENT OF INTELLECTUAL PROPERTY RIGHTS.
* LIMITATION OF LIABILITY:  IN NO EVENT SHALL MENTOR GRAPHICS OR ITS LICENSORS BE LIABLE FOR ANY DIRECT, INDIRECT, SPECIAL,
* INCIDENTAL, OR CONSEQUENTIAL DAMAGES (INCLUDING LOST PROFITS OR SAVINGS) WHATSOEVER, WHETHER BASED ON CONTRACT, TORT OR
* ANY OTHER LEGAL THEORY, EVEN IF ADVISED OF THE POSSIBILITY OF SUCH DAMAGES.
* © 2017 Mentor Graphics Corporation. All rights reserved.

.subckt PLL1 clkin d0in d1in d2in d3in vcoout vdd vss

* .subckt LOGIC_DFFR clk d r q qb vdd vss
* .subckt LOGIC_DFF  clk d q qb  vdd vss
* .subckt LOGIC_NAN2 a b out vdd vss
* .subckt LOGIC_INV  in out vdd vss
* .subckt LOGIC_MUX2 i0 i1 sel out outb vdd vss
* .subckt LOGIC_XOR2 a b out vdd vss

* clock for testing PFD
* Vin fbclk 0 pulse(0v {vddnom} 0n     TRISENOM 	TRISENOM {0.5*TREF-TRISENOM} 	{TREF}) 		* 50% duty cycle

* Phase detector
X1  fbclk  VDD  RS2 Qdn  Qdnb  VDD VSS LOGIC_DFFR
X2  clkin  VDD  RS2 Qup  Qupb  VDD VSS LOGIC_DFFR
X3  Qup    Qdn  RSb            VDD VSS LOGIC_NAN2
X4  RSb    RS1                 VDD VSS LOGIC_INV
X5  RS1    RS1b                VDD VSS LOGIC_INV
X6  RS1b   RS2                 VDD VSS LOGIC_INV
* reset override
* Vrs RS2 0 0

* Charge pump
X7  Qup  Qdn  VCOin VDD VSS PLL1_chargepump

* Loop filter
X8  VCOin cap1 PRIMITIVE_RPOLY2 W=0.5u L=130u
X9  cap1  VSS  PRIMITIVE_CPOLY  AREA=1300e-12
X10 VCOin VSS  PRIMITIVE_CPOLY  AREA=260e-12

* ramp for testing VCO
* vramp VCOin 0 pwl(0,0, 3.3u 3.3)

* Voltage Controlled Oscillator
X11 VCOin VCOout VDD VSS PLL1_vco

* feedback divide-by-N, where N = {d3in d2in d1in d0in} + 1
X12 D0in   Q0B   loadb D0  D0B VDD VSS LOGIC_MUX2
X13 VCOout D0    Q0    Q0B     VDD VSS LOGIC_DFF

X14 Q0     Q1B   D1x           VDD VSS LOGIC_XOR2
X15 D1in   D1x   loadb D1  D1B VDD VSS LOGIC_MUX2
X16 VCOout D1    Q1    Q1B     VDD VSS LOGIC_DFF

X17 Q0     Q1    D2o           VDD VSS LOGIC_OR2
X18 D2o    Q2B   D2x           VDD VSS LOGIC_XOR2
X19 D2in   D2x   loadb D2  D2B VDD VSS LOGIC_MUX2
X20 VCOout D2    Q2    Q2B     VDD VSS LOGIC_DFF

X21 D2o    Q2    D3o           VDD VSS LOGIC_OR2
X22 D3o    Q3B   D3x           VDD VSS LOGIC_XOR2
X23 D3in   D3x   loadb D3  D3B VDD VSS LOGIC_MUX2
X24 VCOout D3    Q3    Q3B     VDD VSS LOGIC_DFF

X25 D3o    Q3    loadb         VDD VSS LOGIC_OR2
X26 VCOout loadb fbclk         VDD VSS LOGIC_OR2

.ends

.subckt PLL1_chargepump Qup Qdn cpout VDD VSS
* N bias chain
Mna  vdd   vdd   vda   VSS nmos1 L='6*gt_l' W='0.5*gt_nw'
X1   vda   v9bn  PRIMITIVE_RPOLY2 W=0.5u L=200u
Mn1  v9bn  v9bn  VSS   VSS nmos1 L='2*gt_l' W='1.0*gt_nw'
* P bias chain
Mp1  v9bp  v9bp  VDD   VDD pmos1 L='1*gt_l' W='0.5*gt_pw'
Mn2  v9bp  v9bn  VSS   VSS nmos1 L='3*gt_l' W='0.5*gt_nw'
* gate constant currents
Mp2  net98 v9bp  VDD   VDD pmos1 L='2*gt_l' W='1*gt_pw'
Mn5  cpout Qdn   net98 VSS nmos1 L='1*gt_l' W='0.5*gt_nw'
Mn4  cpout Qup   net95 VSS nmos1 L='1*gt_l' W='0.5*gt_nw'
Mn3  net95 v9bn  VSS   VSS nmos1 L='8*gt_l' W='1*gt_nw'
.ends

.subckt PLL1_VCO vcoin clkout vdd vss
Mp1 vcn   VCOin VDD   VDD  pmos1 L='gt_l*3.0' W='gt_pw*1.0'
X1  vbn   vcn  PRIMITIVE_RPOLY2 W=0.5u L=25u
Mn1  vbn   vbn   VSS   VSS nmos1 L=gt_l W='gt_nw*2.0'
Mn2  net01 vbn   VSS   VSS nmos1 L=gt_l W='gt_nw*1.0'
Mn3  out0  out0  net01 VSS nmos1 L=gt_l W='gt_nw*1.0'
Mp2  out0  out0  vbp   VDD pmos1 L=gt_l W='gt_pw*1.0'
Mp3  vbp   vbp   VDD   VDD pmos1 L=gt_l W='gt_pw*0.5'

Mn4  net11 vbn   VSS   VSS nmos1 L=gt_l W='gt_nw*1.0'
Mn5  out1  out5  net11 VSS nmos1 L=gt_l W='gt_nw*1.0'
Mp4  out1  out5  net14 VDD pmos1 L=gt_l W='gt_pw*1.0'
Mp5  net14 vbp   VDD   VDD pmos1 L=gt_l W='gt_pw*1.0'
Mn6  net21 vbn   VSS   VSS nmos1 L=gt_l W='gt_nw*1.0'
Mn7  out2  out1  net21 VSS nmos1 L=gt_l W='gt_nw*1.0'
Mp6  out2  out1  net24 VDD pmos1 L=gt_l W='gt_pw*1.0'
Mp7  net24 vbp   VDD   VDD pmos1 L=gt_l W='gt_pw*1.0'
Mn8  net31 vbn   VSS   VSS nmos1 L=gt_l W='gt_nw*1.0'
Mn9  out3  out2  net31 VSS nmos1 L=gt_l W='gt_nw*1.0'
Mp8  out3  out2  net34 VDD pmos1 L=gt_l W='gt_pw*1.0'
Mp9  net34 vbp   VDD   VDD pmos1 L=gt_l W='gt_pw*1.0'
Mn10 net41 vbn   VSS   VSS nmos1 L=gt_l W='gt_nw*1.0'
Mn11 out4  out3  net41 VSS nmos1 L=gt_l W='gt_nw*1.0'
Mp10 out4  out3  net44 VDD pmos1 L=gt_l W='gt_pw*1.0'
Mp11 net44 vbp   VDD   VDD pmos1 L=gt_l W='gt_pw*1.0'
Mn12 net51 vbn   VSS   VSS nmos1 L=gt_l W='gt_nw*1.0'
Mn13 out5  out4  net51 VSS nmos1 L=gt_l W='gt_nw*1.0'
Mp12 out5  out4  net54 VDD pmos1 L=gt_l W='gt_pw*1.0'
Mp13 net54 vbp   VDD   VDD pmos1 L=gt_l W='gt_pw*1.0'
mp14 clkout out5 vdd   vdd pmos1 L=gt_l W='gt_pw*1.0'
mn14 clkout out5 vss   vss nmos1 L=gt_l W='gt_nw*1.0'
.ends
