* Disclaimer:
* This simulation File is provided by Mentor Graphics "AS IS" and any express or implied warranties, including, but not limited to the implied
* warranties of merchantability and fitness for a particular purpose are disclaimed. In no event shall Mentor Graphics or its suppliers be liable
* for any direct, indirect, incidental, special, exemplary or consequential damages (including, but not limited to procurement of
* substitute goods or services, loss of use, data or profits, or business interruption however caused and on any theory of liability,
* whether in contract, strict liability or tort (including negligence or otherwise) arising in any way out of the use of - or any
* inability to use - this Simulation File, even if advised of the possibility of such damage.
* © Mentor Graphics

* simple CMOS transmission gate
.subckt TRAN0 inout1 inout2 en vdd vss
mp1 enb    en  vdd    vdd pmos1 L=gt_l W='gt_pw*0.5'  AD='sx*gt_pw' AS='sx*gt_pw' PD='2*sx+gt_pw' PS='2*sx+gt_pw'
mn1 enb    en  vss    vss nmos1 L=gt_l W='gt_nw*0.5'  AD='sx*gt_nw' AS='sx*gt_nw' PD='2*sx+gt_nw' PS='2*sx+gt_nw'
mp2 inout1 enb inout2 vdd pmos1 L=gt_l W='gt_pw*1.0'  AD='sx*gt_pw' AS='sx*gt_pw' PD='2*sx+gt_pw' PS='2*sx+gt_pw'
mn2 inout1 en  inout2 vss nmos1 L=gt_l W='gt_nw*1.0'  AD='sx*gt_nw' AS='sx*gt_nw' PD='2*sx+gt_nw' PS='2*sx+gt_nw'
.ends


* CMOS T-gate (two transmission gates in series, with grounding switch connected to middle node)
.subckt TRAN1 inout1 inout2 en vdd vss
mp1 enb    en  vdd    vdd pmos1 L=gt_l W='gt_pw*1.0'  AD='sx*gt_pw' AS='sx*gt_pw' PD='2*sx+gt_pw' PS='2*sx+gt_pw'
mn1 enb    en  vss    vss nmos1 L=gt_l W='gt_nw*1.0'  AD='sx*gt_nw' AS='sx*gt_nw' PD='2*sx+gt_nw' PS='2*sx+gt_nw'
mp2 inout1 enb int    vdd pmos1 L=gt_l W='gt_pw*1.0'  AD='sx*gt_pw' AS='sx*gt_pw' PD='2*sx+gt_pw' PS='2*sx+gt_pw'
mn2 inout1 en  int    vss nmos1 L=gt_l W='gt_nw*1.0'  AD='sx*gt_nw' AS='sx*gt_nw' PD='2*sx+gt_nw' PS='2*sx+gt_nw'
mp3 inout2 enb int    vdd pmos1 L=gt_l W='gt_pw*1.0'  AD='sx*gt_pw' AS='sx*gt_pw' PD='2*sx+gt_pw' PS='2*sx+gt_pw'
mn3 inout2 en  int    vss nmos1 L=gt_l W='gt_nw*1.0'  AD='sx*gt_nw' AS='sx*gt_nw' PD='2*sx+gt_nw' PS='2*sx+gt_nw'
mn4 vss    enb int    vss nmos1 L=gt_l W='gt_nw*0.5'  AD='sx*gt_nw' AS='sx*gt_nw' PD='2*sx+gt_nw' PS='2*sx+gt_nw'
.ends


* CMOS T-gate (two transmission gates in series, with grounding switch connected to middle node), with 4X width
.subckt TRAN4 inout1 inout2 en vdd vss
mp1 enb    en  vdd    vdd pmos1 L=gt_l W='gt_pw*2.0'  AD='sx*gt_pw' AS='sx*gt_pw' PD='2*sx+gt_pw' PS='2*sx+gt_pw'
mn1 enb    en  vss    vss nmos1 L=gt_l W='gt_nw*2.0'  AD='sx*gt_nw' AS='sx*gt_nw' PD='2*sx+gt_nw' PS='2*sx+gt_nw'
mp2 inout1 enb int    vdd pmos1 L=gt_l W='gt_pw*1.0'  AD='sx*gt_pw' AS='sx*gt_pw' PD='2*sx+gt_pw' PS='2*sx+gt_pw' m=4
mn2 inout1 en  int    vss nmos1 L=gt_l W='gt_nw*1.0'  AD='sx*gt_nw' AS='sx*gt_nw' PD='2*sx+gt_nw' PS='2*sx+gt_nw' m=4
mp3 inout2 enb int    vdd pmos1 L=gt_l W='gt_pw*1.0'  AD='sx*gt_pw' AS='sx*gt_pw' PD='2*sx+gt_pw' PS='2*sx+gt_pw' m=4
mn3 inout2 en  int    vss nmos1 L=gt_l W='gt_nw*1.0'  AD='sx*gt_nw' AS='sx*gt_nw' PD='2*sx+gt_nw' PS='2*sx+gt_nw' m=4
mn4 vss    enb int    vss nmos1 L=gt_l W='gt_nw*0.5'  AD='sx*gt_nw' AS='sx*gt_nw' PD='2*sx+gt_nw' PS='2*sx+gt_nw'
.ends


